data/specific_train_final.csv
"[H:20][O:21][O].CC(C(C)(C)O)O[O:10]>>[H:20][O:10]OC(C)C(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH:21](CC)CCCCCCCCC.[Cl:10]>>[H:20][Cl:10].CCCCCCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N:12](=[O:13])[O:11]>>[CH3:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N+:12](=[O:13])[O-:11] 12-11,Room Temperature,Propagation,ha resonance
"[C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:10])([Cl:7])([Cl:8])[Cl:9]>>[C:6]([O:5][O:4][O:3])([Cl:7])([Cl:8])[Cl:9].[N+:2](=[O:1])[O-:10] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"c1ccccc1C(CO)[O:10][O:20][O].[N+]([O-])=O>>c1ccccc1C(CO)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"CCCC(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCCC(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C(=C(C=C1)C)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=C(C(=C(C=C1)[O:21])C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][O:4][CH:3]([C:2]=[O:1])[C:6]([CH3:7])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:8][O:9][H:10]>>[H:5][O:4][CH:3][C:6]([CH3:7])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:8][O:9][H:10].[C:2]=[O:1] 2,3-3;2,3-2",Room Temperature,Initiation,homolyze
"CCC[CH:10]CO[N+](=O)[O-].[O:20][O]>>CCC[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=C(C=C[C:22]1C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=C[C:21](=[C:22](C=C1)C)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][CH2:21]C1=CC=C(C=C1)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC1=CC=C(C=C1)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=CCO)[O:20][O:21][N+](=O)[O-]>>CC(=CCO)[O:20].[N+](=O)([O-])[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C=C(C)[CH:2]CO.[O][O:1]>>C=C([CH:2]([O:1][O])CO)C 1-1,2;2-2,1",Room Temperature,Termination,recombine
"CC(=O)OCCC[O:21][O:20][O].[N+](=O)[O-]>>CC(=O)OCCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C)(C)O[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CC(C(C)(C)O[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH3:21].[Cl:10]>>[H:20][Cl:10].[CH3:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:10]Br.[O:20][O]>>[CH2:10]([O:20][O])Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]C(O)(Cl)Cl.[O:20][O]>>[CH2:10](C(O)(Cl)Cl)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(=CCO)O[O:10]>>[H:20][O:10]OC(=CCO)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)[O:21][O:20][O])(C)O)C.[N+](=O)[O-]>>CC1(C2CC1C(C(C2)[O:21])(C)O)C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:8][O:9][O:10].[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4][O:5]>>[H:8][O:9][O:10][O:5].[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4] 4,5-5,10;10-5,10;4,5-4",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C1(C(O1)(C)C=CC=O)C.[O:10][O]>>[H:20][O:10][O].CC1(C(O1)(C)[CH:22]=[O:21])C=CC=O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC(C)(OC(=O)C)O[O:20].[N+](=O)([O:10])[O]>>CCC(C)(OC(=O)C)O[O:20][O:10][N+](=O)[O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CSCO[O:20].[N:10]=O>>CSCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
CCC12C=C(C(C(C1O)(OO2)C)[O])C.[N:10](=O)[O:20]>>CCC12C=C(C(C(C1O)(OO2)C)[O])C.[N+:10](=O)[O-:20] 10-20,Room Temperature,Propagation,ha resonance
"CC1=CC(=CC=C1)CO[O:20].[N+](=O)([O-])[O:10]>>CC1=CC(=CC=C1)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC(=O)C[O:21][O:20][O].[N+](=O)[O-]>>COC(=O)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C[C:20](=[C:21](C(C1O[N+](=O)[O-])(C)O[O:10])O)C>>CC1=C[C:20]2([C:21](C(C1O[N+](=O)[O-])(C)O[O:10]2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC12C=C[C:10](C(C1O)OO2)C.[O:20][O]>>CCC12C=C[C:10](C(C1O)OO2)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:12][CH:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:12][CH:6]([O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C(C=O)O[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(C)C(C=O)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
